US04336397
1-Acetyl-4'-bromo-biphenyl
In a reaction flask under nitrogen atmosphere there was placed 26.6 g (0.2 Mol) of aluminum chloride, which was then covered with 150 ml of dichloromethane. There was then added dropwise 15.6 g (0.2 Mol) of acetyl chloride in 200 ml of dichloromethane, while cooling the reaction mixture. To this was added dropwise 23.3 g (0.1 Mol) of 4-bromobiphenyl in 200 ml of dichloromethane. The reaction mixture was allowed to warm to room temperature, and it was then heated to reflux for 4 hours, after which it was left at room temperature overnight under nitrogen atmosphere. There was then added 50 g of ice and the aqueous layer was separated. The organic layer was washed twice with 50 ml of saturated sodium chloride solution, then dried over magnesium sulfate and evaporated. The crude product was crystallized from 3:1 petroleum ether:benzene to give 16.9 g in the first crop, m.p. 126°-128° C.; and 3.9 g in the second crop.

reactant | aluminum chloride | 0.2 Mol, 26.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.2 Mol, 15.6 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-bromobiphenyl | 0.1 Mol, 23.3 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-Acetyl-4'-bromo-biphenyl | C(C)(=O)C1(CC=CC=C1)C1=CC=C(C=C1)Br | C14H13BrO
